US08957205B2
2-(2-Furanyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one
6.0 g (44 mmol) of isobutyl chloroformate was added dropwise to a solution of 10 g (42 mmol) of 1-[(2-furanylcarbonyl)amino]cyclohexanecarboxylic acid obtained in Reference example 14 and 6.1 ml (44 mmol) of triethylamine in tetrahydrofuran (80 ml), and the mixture was stirred at room temperature for 1 hour. The precipitated crystal was removed by filtration and the filtrate was concentrated. The obtained crystal was washed with water to give 8.95 g (97%) of the title compound.

reactant | isobutyl chloroformate | 44 mmol, 6.0 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-[(2-furanylcarbonyl)amino]cyclohexanecarboxylic acid | 42 mmol, 10 g | O1C(=CC=C1)C(=O)NC1(CCCCC1)C(=O)O | C12H15NO4
reactant | triethylamine | 44 mmol, 6.1 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2-(2-Furanyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 8.95 g, 97% | O1C(=CC=C1)C1=NC2(C(O1)=O)CCCCC2 | C12H13NO3
